US05849928
Copper (I) cyanide (5.05 g) was added to a stirred solution of 4-bromo-3-nitro-phenylsulphur pentafluoride (18.5 g) in N,N-dimethylformamide and heated at 140° C. for 4 hours. A mixture of ferric chloride (20.0 g),concentrated hydrochloric acid and water was added at 105° C. and heating continued for 1.25 hours. The cooled mixture was diluted with water, extracted (ether) and the organic phase washed (water), dried (magnesium sulphate) and evaporated to give 2-nitro-4-pentafluorosulphanylbenzonitrile (14.7 g), m.p.57°-590° C.

reactant | Copper (I) cyanide | 5.05 g | [Cu]C#N
reactant | 4-bromo-3-nitro-phenylsulphur pentafluoride | 18.5 g | BrC1=C(C=C(C=C1)S(F)(F)(F)(F)F)[N+](=O)[O-] | C6H3BrF5NO2S
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-nitro-4-pentafluorosulphanylbenzonitrile | 14.7 g | [N+](=O)([O-])C1=C(C#N)C=CC(=C1)S(F)(F)(F)(F)F | C7H3F5N2O2S
